US07968538B2
N-(1-(3,5-Dichlorophenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzeneamine hydrochloride
To a solution of N-(1-(3,5-dichlorophenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzeneamine (0.09 mmol) in dichloromethane (2.0 mL) was added a saturated solution of HCl in diethyl ether (15 mL). The reaction mixture was stirred for 2 h. The solvent was removed by rotary evaporation to afford the title compound in 95% yield. 1H NMR (400 MHz, CD3OD): δ 7.67 (d, 1H), 7.37 (s, 2H), 7.35 (s, 1H), 6.41 (d, 1H), 5.84 (s, 1H), 4.79 (m, 1H), 3.57 (m, 4H), 3.25 (m, 4H), 1.61 (d, 3H); MS (ESI) m/z: Calculated for C19H24Cl3N3O2S: 464.8; Observed: 465.5 (M++1).

reactant | N-(1-(3,5-dichlorophenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzeneamine | 0.09 mmol | ClC=1C=C(C=C(C1)Cl)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C19H23Cl2N3O2S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | N-(1-(3,5-Dichlorophenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzeneamine hydrochloride | 95% yield | Cl.ClC=1C=C(C=C(C1)Cl)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | InChI=1S/C19H23Cl2N3O2S.ClH/c1-13(14-9-15(20)11-16(21)10-14)23-18-12-17(24-7-5-22-6-8-24)3-4-19(18)27(2,25)26;/h3-4,9-13,22-23H,5-8H2,1-2H3;1H
